resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.980246
R2 0 n2 0.119809
R3 0 n4 0.998516
R4 n1 n3 1.003322
R5 n1 n5 1.015536
R6 n2 n3 0.985882
R7 n2 n6 1.010428
R8 n3 n7 1.0176
R9 n4 n5 1.000768
R10 n4 n6 0.99779
R11 n5 n7 1.00865
R12 n6 n7 1.000212
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
